US05504244
Adipic acid monomethyl ester (35 g; 0.44 mole) is converted to the acid chloride with thionyl chloride (50 g) in a manner analogous to that described in Example 1. This product is reacted with pentylbenzene (400 ml) and aluminum chloride (80 g) and the reaction product isolated as a colorless oil (25 g; b.p. 165°-174° C. @0.15 mm) and identified as methyl 5-(4-n-pentylbenzoyl) pentanoate. This ester (5 g; 0.017 mole) is hydrolysed with sodium hydroxide in aqueous ethanol and the product isolated as in Example 1. Recrystallization from aqueous ethanol gives 5-(4-n-pentylbenzoyl)pentanoic acid (4.0 g) as colorless crystals, m.p. 84°-86° C.

reactant | Adipic acid monomethyl ester | 0.44 mole, 35 g | COC(CCCCC(=O)O)=O | C7H12O4
reactant | thionyl chloride | 50 g | S(=O)(Cl)Cl | Cl2OS
reactant | pentylbenzene | 400 ml | C(CCCC)C1=CC=CC=C1 | C11H16
reactant | aluminum chloride | 80 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-n-pentylbenzoyl)pentanoic acid | 4.0 g | C(CCCC)C1=CC=C(C(=O)CCCCC(=O)O)C=C1 | C17H24O3
